US06602863B1
1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (288 mg, 1.5 mmol) was added to a solution of 6-amino-4[(3-chlorophenyl)amino]quinazoline (136 mg, 0.5 mmol) and acrylic acid (108 mg, 1.5 mmol) in dimethylformamide (DMF) (5 mL), stirred under nitrogen at 0° C. After 15 minutes the reaction mixture was stirred at 25° C. for 18 hours, and then poured onto ice-water (50 mL) and after 1 hour the precipitate was collected by Buchner filtration. The residue was rinsed, air dried, dissolved in the minimum of 25° C. methanol (MeOH) (60 mL), concentrated at 25° C. under reduced pressure to below 10 mL, and recrystallized at 0° C. to give N-[4-[(3-chlorophenyl)-amino]quinazolin-7-yl]acrylamide (33 mg, 20%) as a light orange solid, mp 296.5-298.5° C.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.5 mmol, 288 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-amino-4[(3-chlorophenyl)amino]quinazoline | 0.5 mmol, 136 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Cl | C14H11ClN4
reactant | acrylic acid | 1.5 mmol, 108 mg | C(C=C)(=O)O | C3H4O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[4-[(3-chlorophenyl)-amino]quinazolin-7-yl]acrylamide | 33 mg, 20% | ClC=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)NC(C=C)=O | C17H13ClN4O
